US07618975B2
(2-Chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-amine and methyl iodide by a procedure similar to example 36 (91% yield). 1H NMR (CDCl3): 7.70-7.73 (m, 1H), 7.54 (ddd, J=8.7, 6.3 and 2.1 Hz, 1H), 7.10 (d, J=8.7 Hz, 1H), 6.93-7.23 (m, 2H), 6.50-6.57 (m, 2H), 3.87 (s, 3H), 3.67 (s, 3H), 3.52 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=C(C=C1)OC)OC | C16H14ClN3O2
reactant | methyl iodide | CI | CH3I
product | (2-Chloro-quinazolin-4-yl)-(2,4-dimethoxy-phenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=C(C=C(C=C1)OC)OC | C17H16ClN3O2
